US04232037
Example 1. 3-Bromo-2,6-dimethoxybenzoic acid
A solution of 15 ml of bromine (0.3 mol) in 50 ml of chloroform is added dropwise while stirring and cooling in ice to 54.9 g (0.3 mol) of 2,6-dimethoxybenzoic acid in 150 ml of dioxan. The solution is left at room temperature overnight. The solvent is evaporated and the residue recrystallized from aqueous ethanol. Yield: 59.3 g, m.p. 144°-45° C.

reactant | bromine | 0.3 mol, 15 ml | BrBr | Br2
reactant | 2,6-dimethoxybenzoic acid | 0.3 mol, 54.9 g | COC1=C(C(=O)O)C(=CC=C1)OC | C9H10O4
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | 3-Bromo-2,6-dimethoxybenzoic acid | BrC=1C(=C(C(=O)O)C(=CC1)OC)OC | C9H9BrO4
